US06727249B2
(1R*,2R*,5S*,6S*)-8-Benzyl-2-(tert-butyldimethylsilyloxy)-6-cyano-1-phenyl-8-azabicyclo[3.2.1]octane
t-Butyldimethylsilyl trifluoromethanesulphonate (23 ml, 76 mmol) was added dropwise to a stirred solution of (1R*,2R*5S*,6S*)-8-benzyl-6-cyano-1-phenyl-8-azabicyclo[3.2.1]octan-2-ol (Description 41; 31 g), triethylamine (18 ml, 243 mmol) in dichloromethane (100 ml) at room temperature over 30 minutes. The reaction mixture was stirred for 15 minutes, quenched with saturated aqueous NaHCO3 and extracted into diethyl ether (3×100 ml). The combined organic extracts were washed with water, brine, dried (Na2SO4) and concentrated to give the title compound.

reactant | t-Butyldimethylsilyl trifluoromethanesulphonate | 76 mmol, 23 ml | FC(S(=O)(=O)O[Si](C)(C)C(C)(C)C)(F)F | C7H15F3O3SSi
reactant | 8-benzyl-6-cyano-1-phenyl-8-azabicyclo[3.2.1]octan-2-ol | 31 g | C(C1=CC=CC=C1)N1C2(C(CCC1C(C2)C#N)O)C2=CC=CC=C2 | C21H22N2O
reactant | triethylamine | 243 mmol, 18 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | (1R*,2R*,5S*,6S*)-8-Benzyl-2-(tert-butyldimethylsilyloxy)-6-cyano-1-phenyl-8-azabicyclo[3.2.1]octane | C(C1=CC=CC=C1)N1[C@@]2([C@@H](CC[C@H]1[C@H](C2)C#N)O[Si](C)(C)C(C)(C)C)C2=CC=CC=C2 | C27H36N2OSi
